US07259177B2
4-Methyl-5-phenyl-2-p-tolyloxazole 3-oxide
12.5 g of 1-phenyl-1,2-propanedione-2-oxime and 10 ml of p-tolualdehyde are added to 50 ml of glacial acetic acid, and HCl gas is introduced for 30 minutes, with ice-cooling. The product is precipitated as the hydrochloride by addition of methyl tert-butyl ether and filtered off with suction, and the precipitate is washed with methyl tert-butyl ether. The precipitate is suspended in water and the pH is made alkaline using ammonia. The mixture is extracted three times with in each case 200 ml of dichloromethane, the combined organic phases are dried over MgSO4 and the solvent is then removed under reduced pressure. This gives 6.4 g of 4-methyl-5-phenyl-2-p-tolyloxazole 3-oxide as a white solid. C17H15NO2 (265.31), MS (ESI)=266 (M+H+).

reactant | 1-phenyl-1,2-propanedione-2-oxime | 12.5 g | C1(=CC=CC=C1)C(C(C)=NO)=O | C9H9NO2
reactant | p-tolualdehyde | 10 ml | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | HCl | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-Methyl-5-phenyl-2-p-tolyloxazole 3-oxide | CC=1[N+](=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C)[O-] | C17H15NO2
